US06992087B2
Preparation of N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a light yellow semi-solid. IR (liq.) 2971, 2934, 1609, 1562, 1480, 1391, 1294, 1243, 1206, 1184, 1171, 1161, 1119, 1091, 1054 cm−1; OAMS supporting ions at: ESI+ 432.1; MS (EI) m/z 431 (M+); HRMS (FAB) calcd for C27H33N3O2+H1 432.2651, found 432.2650. Anal. Calcd for C27H33N3O2: C, 75.14; H, 7.71; N, 9.74. Found: C, 74.86; H, 7.72; N, 9.67.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C25H29N3O2
product | N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C27H33N3O2
